US04342702
21-Chloro-20-methoxy-21-(phenylsulfinyl)pregna-4,9(11),17(20)-trien-3-one (VI)
21-Chloro-21-(phenylsulfinyl)pregna-4,9(11),17(20),20-tetraen-3-one, (V, Example 2, 100 mg) and THF (1 ml) are slurried and cooled to 0°-5° under nitrogen. Sodium methoxide in methanol (25%, 0.05 ml) is added with stirring. The mixture is stirred 1 hr and then quenched with water (10 ml). The mixture is extracted with ethyl acetate (2×15 ml). The organic extracts are combined, backwashed with water (10 ml), dried over sodium sulfate and concentrated under reduced pressure to give the title compound.

reactant | 21-Chloro-21-(phenylsulfinyl)pregna-4,9(11),17(20),20-tetraen-3-one | ClC(=C=C1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)S(=O)C1=CC=CC=C1 | C27H29ClO2S
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | Sodium methoxide | C[O-].[Na+]
solvent | methanol | 0.05 ml | CO | CH4O
product | 21-Chloro-20-methoxy-21-(phenylsulfinyl)pregna-4,9(11),17(20)-trien-3-one | ClC(C(=C1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)OC)S(=O)C1=CC=CC=C1 | C28H33ClO3S
